US07674803B2
Methyl 2-[ethyl(2-nitrobenzenesulfonyl)amino]propionate
Methyl 2-(2-nitrobenzenesulfonylamino)propionate (17 g; 59 mmol) is dissolved in 600 ml of dimethylformamide, and caesium carbonate (1.5 eq.; 88 mmol; 28.6 g) is then added. The reaction medium is stirred for 30 minutes at room temperature, followed by dropwise addition of ethyl bromide (4 eq.; 236 mmol; 17.6 ml) and the resulting mixture is stirred overnight at room temperature. The reaction medium is evaporated to dryness, taken up in dichloromethane, filtered and evaporated to dryness. The crude product is chromatographed on silica (eluting with dichloromethane) to give 17.1 g of the expected product.

reactant | Methyl 2-(2-nitrobenzenesulfonylamino)propionate | 59 mmol, 17 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C(=O)OC)C | C10H12N2O6S
reactant | caesium carbonate | 88 mmol, 28.6 g, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromide | 236 mmol, 17.6 ml, 4 eq. | C(C)Br | C2H5Br
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | Methyl 2-[ethyl(2-nitrobenzenesulfonyl)amino]propionate | 17.1 g, Yield: 92% | C(C)N(C(C(=O)OC)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O6S
